US07238716B2
To a mixture of diethyl malonate (115.8 g) and tetrahydrofuran (300 mL) was added sodium hydride (60%, oil, 24.12 g) under ice-cooling. After stirring the mixture at room temperature for 30 min., a solution (100 mL) of 4-chloromethyl-5-methyl-2-phenyloxazole (50.0 g) in tetrahydrofuran was added to the reaction mixture under ice-cooling, and the mixture was heated under reflux for 1 hr. Water was added to the reaction mixture, and the mixture was concentrated. Ethyl acetate was added to the residue and the mixture was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated to give an oil. A mixture of this oil, 6N hydrochloric acid (300 mL) and acetic acid (150 ml) was heated under reflux for 20 hrs. The reaction mixture was concentrated, and ethyl acetate was added to the residue. The mixture was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give crystals (22.4 g, 40%) of 3-(5-methyl-2-phenyl-4-oxazolyl)propionic acid from a fraction eluted with ethyl acetate-hexane (1:4, v/v). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 124-125° C.

reactant | diethyl malonate | 115.8 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium hydride | 24.12 g | [H-].[Na+]
reactant | 4-chloromethyl-5-methyl-2-phenyloxazole | 100 mL, 50.0 g | ClCC=1N=C(OC1C)C1=CC=CC=C1 | C11H10ClNO
reactant | hydrochloric acid | 6N, 300 mL | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
solvent | Water | O | H2O
product | 3-(5-methyl-2-phenyl-4-oxazolyl)propionic acid | 22.4 g, 40% | CC1=C(N=C(O1)C1=CC=CC=C1)CCC(=O)O | C13H13NO3
